US09402397B2
A sealed tube was sequentially charged with 2-ethynylthiophene (250 mg, 2.31 mol), 1-chloro-4-iodobenzene (551 mg, 2.31 mmol, 1.0 eq.), L-proline (53 mg, 0.462 mmol, 0.2 eq.), Na2CO3 (50 mg, 0.462 mmol, 0.2 eq.), sodium ascorbate (91 mg, 0.462 mmol, 0.2 eq.), and 4 mL of DMSO:H2O (9:1). Then NaN3 (180 mg 2.77 mmol, 1.2 eq.) and CuSO4.5H2O (58 mg. 0.231 mmol, 0.1 eq.) were added, and the vessel was sealed. The suspension was stirred at 65° C. for 16 hours. The reaction mixture was then poured into ice-water and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over Na2SO4, and concentrated under vacuum. The crude product was then purified by silica column (100-200) using 15-20% ethyl acetate/hexanes to yield 1-(4-chloro-phenyl)-4-(thiophen-2-yl)-1H-1,2,3-triazole as a brown solid compound (34 mg, 0.13 mmol yield 5.5%). LC-MS [M+H] 261.8 (C12H8ClN3S+H, expected 262.01). The 1H-NMR spectra was in accordance with the chemical structure.

reactant | 2-ethynylthiophene | 2.31 mol, 250 mg | C(#C)C=1SC=CC1 | C6H4S
reactant | 1-chloro-4-iodobenzene | 2.31 mmol, 551 mg, 1.0 eq. | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | L-proline | 0.462 mmol, 53 mg, 0.2 eq. | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Na2CO3 | 0.462 mmol, 50 mg, 0.2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium ascorbate | 0.462 mmol, 91 mg, 0.2 eq. | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | NaN3 | 2.77 mmol, 180 mg, 1.2 eq. | [N-]=[N+]=[N-].[Na+]
solvent | DMSO H2O | 4 mL | CS(=O)C.O
product | 1-(4-chloro-phenyl)-4-(thiophen-2-yl)-1H-1,2,3-triazole | yield 5.5% | ClC1=CC=C(C=C1)N1N=NC(=C1)C=1SC=CC1 | C12H8ClN3S
